US07777038B2
1.50 g of 1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-3-carboxaldehyde and 0.826 g of 2,4-thiazolidinedione were suspended in 30 ml of toluene, and five drops of piperidine and five drops of acetic acid were added, followed by heating and refluxing for 6 hours. The resultant was allowed to cool to precipitate a solid. The precipitated solid was collected by filtration and dried, giving 1.36 g of 5-[1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-3-ylmethylidene]thiazolidine-2,4-dione as a yellow powder (68% yield).

reactant | 1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-3-carboxaldehyde | 1.50 g | ClC1=CC=C(CN2C(C(=CC3=CC=CC=C23)C=O)=O)C=C1 | C17H12ClNO2
reactant | 2,4-thiazolidinedione | 0.826 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | piperidine | five drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | five drops | C(C)(=O)O | C2H4O2
product | 5-[1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-3-ylmethylidene]thiazolidine-2,4-dione | 1.36 g, 68% yield | ClC1=CC=C(CN2C(C(=CC3=CC=CC=C23)C=C2C(NC(S2)=O)=O)=O)C=C1 | C20H13ClN2O3S
